US07700633B2
E. 6-Ethyl-3-nitro-5,6,7,8-tetrahydronaphthalen-2-ol
To a solution of HNO3 (65%, 1.05 mL, 23.0 mmol) in AcOH (10 mL) at 0° C. is added 6-ethyl-5,6,7,8-tetrahydronaphthalen-2-ol (2.02 g, 11.5 mmol) in AcOH (33 mL) dropwise. It is allowed to warm to ambient temperature and stirred for 1.5 h and then at 40° C. until starting material is completely consumed. Water is added, followed by EtOAc. The organic layer is concentrated and purified by column chromatography to give the title compound as a yellow oil: 1H NMR (CDCl3) δ 0.91 (t, J=7 Hz, 3H), 1.28-1.36 (m, 3H), 1.51-1.56 (m, 1H), 1.85-1.90 (m, 1H), 2.24-2.31 (m, 1H), 2.72-2.64 (m, 3H), 6.77 (s, 1H), 7.73 (s, 1H), 10.29 (s, 1H).

reactant | HNO3 | 23.0 mmol, 1.05 mL | [N+](=O)(O)[O-] | HNO3
reactant | 6-ethyl-5,6,7,8-tetrahydronaphthalen-2-ol | 11.5 mmol, 2.02 g | C(C)C1CC=2C=CC(=CC2CC1)O | C12H16O
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | AcOH | 33 mL | CC(=O)O | C2H4O2
product | 6-Ethyl-3-nitro-5,6,7,8-tetrahydronaphthalen-2-ol | C(C)C1CC=2C=C(C(=CC2CC1)O)[N+](=O)[O-] | C12H15NO3
